US07365200B2
A solution of methyl-3-amino-thiophene-2-carboxylate (13 g, 82.70 mmol) in neat methyl cyanoacetate (40 mL) was heated at 210° C. for 10 h. The solution was cooled and excess methyl cyanoacetate was distilled off under vacuum. The residue was taken in methanol, sonicated briefly, and filtered. The solids were washed by cold methanol and dried to yield 9.3 g (50%) of 3-(2-cyano-acetylamino)-thiophene-2-carboxylic acid methyl ester as white solids. MP 146° C.; 1H NMR (400 MHz, DMSO-d6) δ 4.18 (s, 2H), 7.86 (d, J=5.2 Hz, 1H), 7.93 (d, J=5.2 Hz, 1H), 10.25 (s, 1H) ppm; MS m/z=225 amu (M++1).

reactant | methyl-3-amino-thiophene-2-carboxylate | 82.70 mmol, 13 g | COC(=O)C=1SC=CC1N | C6H7NO2S
solvent | methyl cyanoacetate | 40 mL | C(#N)CC(=O)OC | C4H5NO2
product | 3-(2-cyano-acetylamino)-thiophene-2-carboxylic acid methyl ester | 9.3 g, 50% | COC(=O)C=1SC=CC1NC(CC#N)=O | C9H8N2O3S
